US07968746B2
Oxidation as described in protocol B, using 138.6 mg (0.50 mmol) of 6-hydroxy-N,N,2,5,7,8-hexamethylchroman-2-carboxamide and 560 mg CAN (1.02 mmol) yielded 139.9 mg of 2-hydroxy-N,N,2-trimethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-N,N,2,5,7,8-hexamethylchroman-2-carboxamide | 0.50 mmol, 138.6 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N(C)C)C)C | C16H23NO3
reactant | CAN | 1.02 mmol, 560 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N,N,2-trimethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 139.9 mg | OC(C(=O)N(C)C)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C16H23NO4
